USRE036375
1,2,5,6-Tetrahydro-1-methyl-3-(3-(2-(2-thienyl)-1-ethoxy)-1,2,5-thiadiazol- 4-yl)pyridine;
1,2,5,6-Tetrahydro-1-methyl-3-(3-(2-(3-thienyl)-1-ethoxy)-1,2,5-thiadiazol-4yl)pyrid 1,2,5,6-Tetrahydro-1-methyl-3-(3-(2-thienylmethoxy)-1,2,5-thiadiazol-4yl)pyrid 1,2,5,6-Tetrahydro-1-methyl-3-(3-(3-thienylmethoxy)-1,2,5-thiadiazol-4yl)pyridine; 1,2,5,6-Tetrahydro-1-methyl-3-(3-(3-(2-pyrrolidon-1-yl)-1-propoxy)-1,2,5-thiadiazol -4-yl)pyridine; 1,2,5,6-Tetrahydro-1-methyl-3-(3-(2-(2-pyrrolidon- 1-yl)- 1-ethoxy)- 1,2,5thi adiaz o l-4- y l )p yri din e; 1,2,5,6-Tetrahydro-1-methyl-3-(3-(2-(2-oxazolidon-3-yl)- 1-ethoxy)- 1,2,5thiadiazo l-4- yl )p yri dine; 1,2,5,6-Tetrahydro-1-methyl-3-(3-(3-(1-pyrrolidyl)- 1-propoxy)- 1,2,5-thiadiazol- -yl)pyridine; or a pharmaceutically acceptable salt thereof.

reactant | 1,2,5,6-Tetrahydro-1-methyl-3-(3-(3-(2-pyrrolidon-1-yl)-1-propoxy)-1,2,5-thiadiazol -4-yl)pyridine | CN1CC(=CCC1)C=1C(=NSN1)OCCCN1C(CCC1)=O | C15H22N4O2S
reactant | 1,2,5,6-Tetrahydro-1-methyl-3-(3-(2-(2-pyrrolidon- 1-yl)- 1-ethoxy)- 1,2,5thi adiaz o l-4- y l )p yri din e | CN1CC(=CCC1)C=1C(=NSN1)OCCN1C(CCC1)=O | C14H20N4O2S
reactant | 1,2,5,6-Tetrahydro-1-methyl-3-(3-(2-(2-oxazolidon-3-yl)- 1-ethoxy)- 1,2,5thiadiazo l-4- yl )p yri dine | CN1CC(=CCC1)C=1C(=NSN1)OCCN1[CH-]OCC1=O
reactant | 1,2,5,6-Tetrahydro-1-methyl-3-(3-(3-(1-pyrrolidyl)- 1-propoxy)- 1,2,5-thiadiazol- -yl)pyridine | CN1CC(=CCC1)C=1C(=NSN1)OCCCN1CCCC1 | C15H24N4OS
product | 1,2,5,6-Tetrahydro-1-methyl-3-(3-(2-(2-thienyl)-1-ethoxy)-1,2,5-thiadiazol- 4-yl)pyridine | CN1CC(=CCC1)C=1C(=NSN1)OCCC=1SC=CC1 | C14H17N3OS2
